US07951838B2
5-(Methoxymethoxy)-2-neopentylpyridine-N-oxide (11.5 g, 51 mmol) was dissolved in CH2Cl2 (50 mL) to which benzoyl chloride (12 ml, 102 mmol) and (trimethylsilyl)formonitrile (14 ml, 102 mmol) were added. The mixture was stirred under N2 4 h, quenched with saturated NaHCO3 (150 mL), and extracted with CH2Cl2 (3×100 mL). The combined organic layers were washed with saturated NaHCO3 (2×50 mL), dried (MgSO4), and evaporated to give the crude product as a brown oil, which was purified by ISCO (330 g SiO2, 0-40% EtOAc/Hexane) to give 3-(methoxymethoxy)-6-neopentylpicolinonitrile (8.8 g, 74% yield) as a clear oil.

reactant | 5-(Methoxymethoxy)-2-neopentylpyridine-N-oxide | 51 mmol, 11.5 g | COCOC=1C=CC(=[N+](C1)[O-])CC(C)(C)C | C12H19NO3
reactant | benzoyl chloride | 102 mmol, 12 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | (trimethylsilyl)formonitrile | 102 mmol, 14 ml | C[Si](C)(C)C#N | C4H9NSi
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-(methoxymethoxy)-6-neopentylpicolinonitrile | 8.8 g, 74% yield | COCOC=1C(=NC(=CC1)CC(C)(C)C)C#N | C13H18N2O2
